US06020355
To 100 mL of acetonitrile was added 5 g of 5-(2,3-dichlorophenyl)-1H-tetrazole (Lancester Synthesis Inc., Windham, N.H.) followed by 2.5 g of potassium carbonate. After stirring for 15 min, 5 g of 1-bromo-2-fluoroethane was added dropwise. After the addition, the resulting mixture was then heated to reflux for 3 hours and then filtered. The solvent was then evaporated under reduced pressure leaving 4 g of 5-(2,3-dichlorophenyl)-2-(2-fluoroethyl)-1H-tetrazole as an oil.

reactant | 5-(2,3-dichlorophenyl)-1H-tetrazole | 5 g | ClC1=C(C=CC=C1Cl)C1=NN=NN1 | C7H4Cl2N4
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 5 g | BrCCF | C2H4BrF
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 5-(2,3-dichlorophenyl)-2-(2-fluoroethyl)-1H-tetrazole | 4 g | ClC1=C(C=CC=C1Cl)C1=NNN(N1)CCF | C9H9Cl2FN4
